US03932658
6.5 g of sodium salt of 4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonamide were refluxed for 3 hours with 3.9 g of diphenylcarbamic acid chloride in 60 ml of toluene. The crude N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl]-N',N'-diphenyl-urea obtained was suction-filtered, suspended in dioxane and, after addition of 1 g of acetic acid and 1.6 g of cyclopentyl-amine, the substance was refluxed for 11/2 hours. After acidification with dilute hydrochloric acid the precipitate was separated by suction-filtration and treated with 0.5 %-ammonia. The aqueous alkaline solution was acidified and the crystals were re-crystallized from methanol. N-[4-(β-<2-methoxy-5-chloro-benzamido>-ethyl)-benzenesulfonyl] -N'-cyclopentyl-urea was obtained having a melting point of 182° - 184°C.

reactant | sodium | 6.5 g | [Na] | Na
reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | diphenylcarbamic acid chloride | 3.9 g | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N',N'-diphenyl-urea | C1(=CC=CC=C1)N(C(N)=O)C1=CC=CC=C1 | C13H12N2O
